US06077850
To a suspension of ethyl 6-cyano-1,2-dihydro-2-(trifluoromethyl)-3-quinolinecarboxylate (140 mg, 0.45 mmol) in methanol-tetrahydrofuran-water (10 mL, 7:2:1) was added lithium hydroxide (76 mg, 0.91 mmol) and the mixture gently heated to reflux for two hours. The contents were cooled to room temperature and 1 N aqueous hydrochloric acid added until pH=1. The organic solvent was removed in vacuo to afford a suspension of crude yellow solid. Diethyl ether (20 mL) was added, and the solution was washed with water (2×20 mL), saturated ammonium sulfate (2×20 mL), dried over sodium sulfate and filtered. The filtrate was concentrated in vacuo to yield 6-cyano-1,2-dihydro-2-(trifluoromethyl)-3-quinolinecarboxylic acid as a yellow solid, (116 mg, 95%): mp 238-240° C. 1H NMR (CD3OD/300 MHz) 7.75 (s, 1H), 7.56 (m, 1H), 7.43 (m, 1H), 6.79 (d, 1H, J=8.5 Hz) 5.19 (q, 1H, J=7.1 Hz). EIHRMS m/z 267.0405 (M-H, Calc'd 267.0381). Anal. Calc'd for C14H11F3N2O2 : C, 53.74; H, 2.63; N, 10.45. Found: C, 53.99; H, 2.89; N, 10.19.

reactant | ethyl 6-cyano-1,2-dihydro-2-(trifluoromethyl)-3-quinolinecarboxylate | 0.45 mmol, 140 mg | C(#N)C=1C=C2C=C(C(NC2=CC1)C(F)(F)F)C(=O)OCC | C14H11F3N2O2
reactant | lithium hydroxide | 0.91 mmol, 76 mg | [OH-].[Li+]
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | Diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | methanol tetrahydrofuran water | 10 mL | CO.O1CCCC1.O
product | 6-cyano-1,2-dihydro-2-(trifluoromethyl)-3-quinolinecarboxylic acid | C(#N)C=1C=C2C=C(C(NC2=CC1)C(F)(F)F)C(=O)O | C12H7F3N2O2
